US04845097
Synthesis of 5-chloro-2,6-dimethyl-4-{2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethylamino}pyrimidine (Compound No. 15)
1.0 g of triethylamine and 2.2 g of 2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethylamine were added to 1.8 g of 4,5-dichloro-2,6-dimethylpyrimidine dissolved in 50 ml of toluene. The mixture was heated under reflux, whilst stirring, for 5 hours. At the end of this time, the reaction product was washed with water and dried over anhydrous sodium sulfate. Toluene was then removed by distillation under reduced pressure, and the oily product obtained was subjected to column chromatography (Wakogel C-200, eluted with a 2:1 by volume mixture of toluene and etyl acetate) to isolate the product. The crystals obtained were recrystallized from hexane, to give 2.0 g of the title compound as colorless granular crystals melting at 61°-63° C.

reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | 2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethylamine | 2.2 g | C(C)OCCC1=CC(=C(OCCN)C=C1)C | C13H21NO2
reactant | 4,5-dichloro-2,6-dimethylpyrimidine | 1.8 g | ClC1=NC(=NC(=C1Cl)C)C | C6H6Cl2N2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-2,6-dimethyl-4-{2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethylamino}pyrimidine | 2.0 g | ClC=1C(=NC(=NC1C)C)NCCOC1=C(C=C(C=C1)CCOCC)C | C19H26ClN3O2
